US07465798B2
Intermediate 24: 1-Chloro-3-(thiophen-3-yl)propan-2-one
The procedure described above for the synthesis of 1-chloro-3-[2-(3-methylbenzo[b]thiophen-2-yl)propan-2-one was followed, reacting thiophene-3-acetic acid (5.32 g, 37.4 mmol) with oxalyl chloride (3.6 mL, 5.2 g, 41 mmol, then ethereal diazomethane, then dry HCl gas. Work-up gave pure product, a brown oil which solidified upon refrigeration to a golden-brown, waxy solid (6.52 g, 100% yield): 1H NMR (400 MHz, CDCl3) δ 3.94 (s, 2H) 4.13 (s, 2H) 6.99 (d, J=5.1 Hz, 1H) 7.16 (dd, J=1.5, 0.8 Hz, 1H) 7.33 (dd, J=4.9, 2.9 Hz, 1H).

reactant | thiophene-3-acetic acid | 37.4 mmol, 5.32 g | S1C=C(C=C1)CC(=O)O | C6H6O2S
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | diazomethane | [N+](=[N-])=C | CH2N2
reactant | HCl | Cl | ClH
product | 1-Chloro-3-(thiophen-3-yl)propan-2-one | 6.52 g, 100% yield | ClCC(CC1=CSC=C1)=O | C7H7ClOS
